US03998834
A mixture of 3 parts of 4-(methoxymethyl)-N-phenyl-1-(2-phenylethyl)-4-piperidinamine and 5 parts of butanoic acid, anhydride is stirred and refluxed for 8 hours. The reaction mixture is poured onto water and the whole is alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The oily residue is stirred in 1,1'-oxybisethane with activated charcoal. The latter is filtered off and the filtrate is evaporated. The residue is converted into the ethanedioate salt 2-propanol. The salt is filtered off and crystallized from 2-propanone, yielding 1.7 parts of N-[4-(methoxymethyl)-1-(2-phenylethyl)-4-piperidinyl]-N-phenylbutanamide ethanedioate; mp. 174.2° C.

reactant | 4-(methoxymethyl)-N-phenyl-1-(2-phenylethyl)-4-piperidinamine | COCC1(CCN(CC1)CCC1=CC=CC=C1)NC1=CC=CC=C1 | C21H28N2O
reactant | butanoic acid, anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-(methoxymethyl)-1-(2-phenylethyl)-4-piperidinyl]-N-phenylbutanamide ethanedioate | C(C(=O)O)(=O)O.COCC1(CCN(CC1)CCC1=CC=CC=C1)N(C(CCC)=O)C1=CC=CC=C1 | InChI=1S/C25H34N2O2.C2H2O4/c1-3-10-24(28)27(23-13-8-5-9-14-23)25(21-29-2)16-19-26(20-17-25)18-15-22-11-6-4-7-12-22;3-1(4)2(5)6/h4-9,11-14H,3,10,15-21H2,1-2H3;(H,3,4)(H,5,6)
